US08183239B2
To a solution of N-{3-bromo-4-[4-(diethylcarbamoyl-phenyl-methyl)-piperazin-1-yl]-phenyl}-2-ethyl-butyramide (66 mg, 0.12 mmol) in DMF (1.5 mL) was added CuI (1.3 mg, 0.01 mmol), triphenylphosphine (73 mg, 0.28 mmol), diethylamine (220 μL, 2.1 mmol), trimethylsilylacetylene (22 μL, 0.15 mmol) and dichlorobis(triphenylphosphine)palladium (II) (5.0 mg, 0.01 mmol). This solution was heated in a focused microwave reactor at 120° C. for 5 min, after which the solution was concentrated and purified by reverse phase HPLC to provide N-{4-[4-(diethylcarbamoyl-phenyl-methyl)-piperazin-1-yl]-3-trimethylsilanylethynyl-phenyl}-2-ethylbutyramide (10.5 mg, 16%). This compound (18 mg, 0.03 mmol) was dissolved in MeOH and treated with K2CO3 (9.0 mg, 0.06 mmol). After 1 h, the solids were filtered off, the filtrate concentrated, and the product purified by reverse phase HPLC to afford the title compound (10 mg, 63%). MS: 489.4.

reactant | N-{3-bromo-4-[4-(diethylcarbamoyl-phenyl-methyl)-piperazin-1-yl]-phenyl}-2-ethyl-butyramide | 0.12 mmol, 66 mg | BrC=1C=C(C=CC1N1CCN(CC1)C(C1=CC=CC=C1)C(N(CC)CC)=O)NC(C(CC)CC)=O | C28H39BrN4O2
reactant | triphenylphosphine | 0.28 mmol, 73 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethylamine | 2.1 mmol, 220 μL | C(C)NCC | C4H11N
reactant | trimethylsilylacetylene | 0.15 mmol, 22 μL | C[Si](C)(C)C#C | C5H10Si
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
catalyst | CuI | 0.01 mmol, 1.3 mg | [Cu]I
catalyst | dichlorobis(triphenylphosphine)palladium | 0.01 mmol, 5.0 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | N-{4-[4-(diethylcarbamoyl-phenyl-methyl)-piperazin-1-yl]-3-trimethylsilanylethynyl-phenyl}-2-ethylbutyramide | 10.5 mg, 16% | C(C)N(C(=O)C(N1CCN(CC1)C1=C(C=C(C=C1)NC(C(CC)CC)=O)C#C[Si](C)(C)C)C1=CC=CC=C1)CC | C33H48N4O2Si
